US09193710B2
Tert-butyl 4,5-dimethyl-2-nitrophenylcarbamate
The title compound was prepared from the commercially available 4,5-dimethyl-2-nitroaniline [CAS-No. 6972-71-0] (1.2 g, 7 mmol) and Boc2O (1.9 g, 9 mmol) according to the general procedure A. Obtained as a yellow solid (1.2 g, 63%), MS (EI) 267 [(M+1)+] and 210{[(M-C(CH3)3]+}

reactant | 4,5-dimethyl-2-nitroaniline | 7 mmol, 1.2 g | CC1=CC(=C(N)C=C1C)[N+](=O)[O-] | C8H10N2O2
reactant | Boc2O | 9 mmol, 1.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | Tert-butyl 4,5-dimethyl-2-nitrophenylcarbamate | CC1=CC(=C(C=C1C)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C13H18N2O4
